* gnetlist -g spice-sdb -o spice.net bms.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
K L1 L2 0.91
R1 0 2 10  
R2 0 1 10  
.INCLUDE ./Simulation.cmd
ROUT Vout 0 10R  
VIN Vin 0 DC 1.6V AC 1V SIN(0 1MV 1KHZ)
Cbat Vout 0 1uF  
L1 2 Vout 1uH 
L2 Vin 1 1uH 
.end
