* Z:\home\martin\bms\ltspice\bms_action.asc
V4 N004 N005 3.7 Rser=0.020
L1 N003 N010 10µH
L2 N009 N003 10µH
M1 N009 N006 N005 N005 BSC031N06NS3
D1 N005 N009 1N914
M2 N010 N008 0 0 BSC031N06NS3
D2 0 N010 1N914
V1 N005 N014 4 Rser=0.020
L3 N016 N011 10µH
M3 N016 N015 N014 N014 BSC031N06NS3
D3 N014 N016 1N914
V2 N014 0 3.7 Rser=0.020
L4 N021 N014 10µH
M4 N021 N023 0 0 BSC031N06NS3
D4 0 N021 1N914
L5 N003 N017 10µH
M5 N017 N019 N020 N020 BSC031N06NS3
D5 N020 N017 1N914
L6 N003 N022 10µH
M6 N022 N024 0 0 BSC031N06NS3
D6 0 N022 1N914
C1 N004 N005 10µF
C2 N005 N014 10µ V=6.3 Irms=11.832 Rser=0.003 Lser=0
C3 N014 0 10µF
V7 N024 0 0
V5 N013 N014 PULSE(-0.5 5 0.001 0 0 0.65E-05 0.95E-05)
V6 N023 0 0
V8 N018 0 PULSE(-0.5 5 0.0010072 0 0 0.10e-05 0.95e-05)
R1 N020 0 0.025R
R2 N005 N011 0.025R
C4 N004 0 500µF
XU2 N013 N014 N018 0 N019 N003 N015 N012 LTC1693-1
V10 N012 N014 5
V11 N007 0 PULSE(-0.5 5 0.001 0 0 0.10e-05 0.95E-05)
V12 N002 N005 PULSE(-0.5 0 0.0010072 0 0 0.10e-05 0.95e-05)
XU1 N002 N005 N007 0 N008 N003 N006 N001 LTC1693-1
V13 N001 N005 5
R3 N004 N003 0.001R
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
K1 L1 L2 1
K2 L5 L3 1
K3 L6 L4 1
.tran 0 0.002 0
.lib LTC1693-1.sub
.backanno
.end
