VBat3 N002 N005 3.7 Rser=0.020
L1 N001 N004 10µH
L2 N003 N001 10µH
M1 N003 N005 N005 N005 BSC031N06NS3
D1 N005 N003 1N914
M2 N004 0 0 0 BSC031N06NS3
D2 0 N004 1N914
VBat2 N005 N009 3.7 Rser=0.020
L3 N011 N006 10µH
M3 N011 N010 N009 N009 BSC031N06NS3
D3 N009 N011 1N914
VBat1 N009 0 3.7 Rser=0.020
L4 N016 N009 10µH
M4 N016 0 0 0 BSC031N06NS3
D4 0 N016 1N914
L5 N001 N012 10µH
M5 N012 N014 N015 N015 BSC031N06NS3
D5 N015 N012 1N914
L6 N001 N017 10µH
M6 N017 0 0 0 BSC031N06NS3
D6 0 N017 1N914
C1 N002 N005 10µF
C2 N005 N009 10µ V=6.3 Irms=11.832 Rser=0.003 Lser=0
C3 N009 0 10µF
VTriggerPri N008 N009 PULSE(-0.5 5 0.001 0 0 0.65E-05 0.95E-05)
VTriggerSec N013 N009 PULSE(-0.5 5 0.0010072 0 0 0.10e-05 0.95e-05)
R1 N015 0 0.025R
R2 N005 N006 0.025R
C4 N002 0 500µF
XU2 N008 N009 N013 N009 N014 N007 N010 N007 LTC1693-1
VSupply5v N007 N009 5
R3 N001 N002 0.001R
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
K1 L1 L2 1
K2 L5 L3 1
K3 L6 L4 1
.tran 0 0.002 0
.lib LTC1693-1.sub
.backanno
.end
